US07449486B2
Step D: Preparation of {3-[5-(2,5-difluorophenyl)-3-isobutyryl-2-phenyl-2,3-dihydro-[1,3,4]oxadiazol-2-yl]-propyl}-carbamic acid tert-butyl ester:
To a solution of {4-[(2,5-difluorobenzoyl)-hydrazono]-4-phenylbutyl}-carbamic acid tert-butyl ester (420 mg, 1.01 mmol) in DCE (2 mL) was added isobutyric anhydride (2 mL). The reaction mixture was then sealed and heat to 110° C. and stirred for 5 hours. The reaction was then cooled and concentrated. The residue was purified by flash column chromatography (12:1 Hexanes/EtOAc) to provide the product (200 mg, 41%).

reactant | {4-[(2,5-difluorobenzoyl)-hydrazono]-4-phenylbutyl}-carbamic acid tert-butyl ester | 1.01 mmol, 420 mg | C(C)(C)(C)OC(NCCCC(C1=CC=CC=C1)=NNC(C1=C(C=CC(=C1)F)F)=O)=O | C22H25F2N3O3
reactant | isobutyric anhydride | 2 mL | C(C(C)C)(=O)OC(C(C)C)=O | C8H14O3
solvent | DCE | 2 mL | ClCCCl | C2H4Cl2
product | {3-[5-(2,5-difluorophenyl)-3-isobutyryl-2-phenyl-2,3-dihydro-[1,3,4]oxadiazol-2-yl]-propyl}-carbamic acid tert-butyl ester | 200 mg, 41% | C(C)(C)(C)OC(NCCCC1(OC(=NN1C(C(C)C)=O)C1=C(C=CC(=C1)F)F)C1=CC=CC=C1)=O | C26H31F2N3O4
